US05221665
N-CBZ-L-Valyl-N-(cycloheptyl)glycine
N-CBZ-L-Valyl-N-(cycloheptyl)glycine ethyl ester (11.2 g, 0.0259 mol) was dissolved in ethanol (300 mL) and treated with 1N KOH (27 mL) in portions of 5.0 mL at 0°-5° C. After the mixture was allowed to stir at room temperature over night the ethanol was removed under vacuum, and the residue treated with water. The residue was extracted three times with ethyl acetate and afterwards the aqueous layer was acidified with 2N HCl. The product was extracted into ethyl acetate and washed with saturated aqueous sodium chloride. After drying over MgSO4, filtration and evaporation under reduced pressure isolated the product as a white semisolid (6.5 g) melting at 48°-51° C.

reactant | N-CBZ-L-Valyl-N-(cycloheptyl)glycine ethyl ester | 0.0259 mol, 11.2 g | C(C)OC(CN(C1CCCCCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C24H36N2O5
reactant | KOH | 1N, 27 mL | [OH-].[K+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | N-CBZ-L-Valyl-N-(cycloheptyl)glycine | 6.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)N(CC(=O)O)C1CCCCCC1 | C22H32N2O5
